US07625888B2
Step A: 2-Methyl-7,8-dihydro[1,2,4]triazolo[1,5-c]pyrimidine-5(6H)-thione
A solution of 1.99 g (10 mmol) of 2-(5-methyl-1,2,4-triazol-3-yl)ethanamine dihydrochloride in a mixture of 13 mL of water and 7 mL (35 mmol) of 5N sodium hydroxide aqueous solution was stirred under nitrogen at room temperature as a solution of 5.4 mL of carbon disulfide in 30 mL of dry ethanol was added dropwise over about 30 minutes. After 5 h, the excess carbon disulfide was removed by rotary evaporation. The resulting solution was stirred under nitrogen at room temperature as 1.08 mL (1.23 g, 11 mmol) of ethyl chloroformate was added dropwise over about 10 minutes. Stirring at room temperature was continued overnight. The solution was partially concentrated to remove the ethanol, resulting in precipitation. The pH was made slightly acidic by addition of acetic acid. Then the solid was collected on a filter, washed with a small volume of water, and dried to give the title compound as a solid. LC-MS 169 (M+1).

reactant | 2-(5-methyl-1,2,4-triazol-3-yl)ethanamine dihydrochloride | 10 mmol, 1.99 g | Cl.Cl.CC1=NC(=NN1)CCN
reactant | sodium hydroxide | 35 mmol, 5N, 7 mL | [OH-].[Na+]
reactant | carbon disulfide | 5.4 mL | C(=S)=S | CS2
reactant | ethyl chloroformate | 11 mmol, 1.08 mL, 1.23 g | ClC(=O)OCC | C3H5ClO2
solvent | water | 13 mL | O | H2O
solvent | ethanol | 30 mL | C(C)O | C2H6O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-Methyl-7,8-dihydro[1,2,4]triazolo[1,5-c]pyrimidine-5(6H)-thione | CC1=NN2C(NCCC2=N1)=S | C6H8N4S
